US05733912
7b. 7a-(2-chloro-3-pyridinyl)-hexahydro-1H-pyrrolizine hydrochloride salt
7a-(2-Chloro-3-pyridinyl)-hexahydro-1H-pyrrolizine (21 mg, 0.1 mmol) was dissolved in Et2O (6 mL), and Et2O saturated with HCl (g) was added. The solvent was removed, and the precipitate was triturated (3×) with Et2O to afford a yellow solid (26 mg, quant). mp 186°-188° C. MS (CI/NH3) m/e: 223 (M+H)+. 1H NMR D2O, 300 MHz) δ2.03-2.18 (m, 2H), 2.29-2.41 (m, 2H), 2.54-2.64 (m, 2H), 2.75-2.84 (m,2H), 3.41-2.51 (m, 2H), 2.93-4.02 (m, 2H), 7.57 (dd, J=8.1, 4.7 Hz, 1H), 8.01 (dd, J=8.1, 1.7 Hz, 1H), 8.42 (dd, J=4.7, 1.7 Hz, 1H). Anal. Calcd for Cl2H16Cl2N2 : C, 55.61; H, 6.22; N, 10.81. Found: C, 55.21; H, 6.25; N, 10.45

reactant | 7a-(2-Chloro-3-pyridinyl)-hexahydro-1H-pyrrolizine | 0.1 mmol, 21 mg | ClC1=NC=CC=C1C12CCCN2CCC1 | C12H15ClN2
reactant | HCl | Cl | ClH
solvent | Et2O | 6 mL | CCOCC | C4H10O
product | 7a-(2-chloro-3-pyridinyl)-hexahydro-1H-pyrrolizine hydrochloride salt | Cl.ClC1=NC=CC=C1C12CCCN2CCC1 | InChI=1S/C12H15ClN2.ClH/c13-11-10(4-1-7-14-11)12-5-2-8-15(12)9-3-6-12;/h1,4,7H,2-3,5-6,8-9H2;1H
